US09302991B2
<Step-4>:(R)-2-methyl-N-(1-(5-methyl-6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 77% yield (880 mg, clear colorless oil) from 1-(5-methyl-6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethanone (820 mg, 3.1 mmol, Step-3) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(5-methyl-6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethanone | 3.1 mmol, 820 mg | CC=1C=C(C=NC1OCC(C(F)F)(F)F)C(C)=O | C11H11F4NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(5-methyl-6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-yl)ethyl)propane-2-sulfinamide | 77% yield | CC(C)(C)[S@@](=O)NC(C)C=1C=NC(=C(C1)C)OCC(C(F)F)(F)F | C15H22F4N2O2S
